US07205302B2
4-[N-(5,6-di-p-tolylpyrazin-2-yl)-N-methylamino]-1-butanol
To a solution of 3.00 g of 2-chloro-5,6-di-p-tolylpyrazine and 1.57 g of 4-(methylamino)-1-butanol in 15 ml of N,N-dimethylformamide, 2.26 g of potassium carbonate was added. After heating with stirring at 100° C. for 26 hours, the reaction solution was extracted with diethyl ether after adding ice water. The extract was washed in turn with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography and the resulting crystal was washed with diisopropyl ether to obtain 2.76 g of the desired compound as a colorless crystal having a melting point of 94 to 96° C.

reactant | 2-chloro-5,6-di-p-tolylpyrazine | 3.00 g | ClC1=NC(=C(N=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C18H15ClN2
reactant | 4-(methylamino)-1-butanol | 1.57 g | CNCCCCO | C5H13NO
reactant | potassium carbonate | 2.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[N-(5,6-di-p-tolylpyrazin-2-yl)-N-methylamino]-1-butanol | 2.76 g | C1(=CC=C(C=C1)C=1N=CC(=NC1C1=CC=C(C=C1)C)N(C)CCCCO)C | C23H27N3O
